US07504411B2
4 M Hydrogen chloride in ethyl acetate (5.0 mL, 20.0 mmol) was added to a solution of 2-(4-chlorophenyl)-4-t-butoxycarbonyl-6,6-dimethyl-piperazine (1.69 g, 5.2 mmol). After 12 h, removing the solvent, filtrating and washing the precipitate with ethyl acetate gave 2-(4-chlorophenyl)-6,6-dimethyl-piperazine dihydrochloride (1.43 g, 95%). 1H NMR (300 MHz, DMSO-d6), δ 1.40 (3H, s), 1.58(3H, s), 3.24-3.99(4H, m), 4.73(1H, m), 7.69(2H, d, J=8.4 Hz), 7.79(2H, m), 9.99-10.12(2H, m).

reactant | Hydrogen chloride | 4 M | Cl | ClH
reactant | ethyl acetate | 20.0 mmol, 5.0 mL | C(C)(=O)OCC | C4H8O2
reactant | 2-(4-chlorophenyl)-4-t-butoxycarbonyl-6,6-dimethyl-piperazine | 5.2 mmol, 1.69 g | ClC1=CC=C(C=C1)C1NC(CN(C1)C(=O)OC(C)(C)C)(C)C | C17H25ClN2O2
product | 2-(4-chlorophenyl)-6,6-dimethyl-piperazine dihydrochloride | 1.43 g, 95% | Cl.Cl.ClC1=CC=C(C=C1)C1NC(CNC1)(C)C | InChI=1S/C12H17ClN2.2ClH/c1-12(2)8-14-7-11(15-12)9-3-5-10(13)6-4-9;;/h3-6,11,14-15H,7-8H2,1-2H3;2*1H
